US05352689
1.03 g of DCC and a catalytic amount of 4-pyrrolidinopyridine were added to a solution of 1.25 g of rhizoxin and 1.20 g of 3-iodopropionic acid in toluene, and the resulting mixture was stirred at room temperature for 2 hours. At the end of this time, the reaction mixture was treated in the same manner as described in Example 1, to give 1.33 g of rhizoxin 3-iodopropionate. The whole of this ester was immediately dissolved in 20 ml of acetonitrile, and 0.92 g of the silver salt of methylmercaptan prepared at the time of use was added. The resulting mixture was stirred at room temperature for 8 hours, after which the precipitate was filtered off. The solvent was then removed by distillation under reduced pressure, and ethyl acetate was added to the residue. The resulting mixture was washed with a 5% w/v aqueous solution of sodium bicarbonate and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography, using a 1:1 by volume mixture of cyclohexane and ethyl acetate as eluent, to give 970 mg of the title product.

reactant | DCC | 1.03 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-pyrrolidinopyridine | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | rhizoxin | 1.25 g | CC1=NC(=CO1)/C=C(\C)/C=C/C=C(\C)/[C@@H]([C@@H](C)[C@@H]2C[C@@H]([C@@]3([C@H](O3)/C=C/[C@H]([C@H]4C[C@@H](C[C@H]5[C@@H](O5)C(=O)O2)CC(=O)O4)C)C)O)OC | C35H47NO9
reactant | 3-iodopropionic acid | 1.20 g | ICCC(=O)O | C3H5IO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | rhizoxin 3-iodopropionate | 1.33 g | CC1=NC(=CO1)/C=C(\C)/C=C/C=C(\C)/[C@@H]([C@@H](C)[C@@H]2C[C@@H]([C@@]3([C@H](O3)/C=C/[C@H]([C@H]4C[C@@H](C[C@H]5[C@@H](O5)C(=O)O2)CC(=O)O4)C)C)O)OC.ICCC(=O)[O-] | InChI=1S/C35H47NO9.C3H5IO2/c1-19(13-25-18-41-23(5)36-25)9-8-10-21(3)32(40-7)22(4)27-17-29(37)35(6)30(45-35)12-11-20(2)26-14-24(16-31(38)42-26)15-28-33(43-28)34(39)44-27;4-2-1-3(5)6/h8-13,18,20,22,24,26-30,32-33,37H,14-17H2,1-7H3;1-2H2,(H,5,6)/p-1/b9-8+,12-11+,19-13+,21-10+;/t20-,22+,24+,26-,27+,28+,29+,30-,32+,33-,35-;/m1./s1
